US08106077B2
4-[(2-Fluoro-4-hydroxy-phenylamino)-methyl]-2-methyl-benzoic acid methyl ester
A mixture of 4-amino-3-fluoro-phenol (900 mg, 7.08 mmol) and 4-formyl-2-methyl-benzoic acid methyl ester (1.23 g, 6.90 mmol) in 35 mL acetic acid is stirred for two hours at room temperature. Sodium triacetoxyborohydride (3.20 g, 15.1 mmol) is added and stirred at room temperature. Upon completion, the mixture is concentrated under reduced pressure and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer is separated and extracted with ethyl acetate (3×). The combined ethyl acetate layers are dried (MgSO4) and concentrated under reduced pressure. The residue is purified on 120 g silica eluting with a gradient of ethyl acetate in heptane (10% to 60%) to provide the title compound (1.9 g, 93%) as a yellow oil. ES/MS m/e 290.0 (M+1).

reactant | 4-amino-3-fluoro-phenol | 7.08 mmol, 900 mg | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | 4-formyl-2-methyl-benzoic acid methyl ester | 6.90 mmol, 1.23 g | COC(C1=C(C=C(C=C1)C=O)C)=O | C10H10O3
reactant | Sodium triacetoxyborohydride | 15.1 mmol, 3.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | 4-[(2-Fluoro-4-hydroxy-phenylamino)-methyl]-2-methyl-benzoic acid methyl ester | 1.9 g, 93% | COC(C1=C(C=C(C=C1)CNC1=C(C=C(C=C1)O)F)C)=O | C16H16FNO3
